US05981551
Preparation of 2,5-bis[2-benzimidazolylimino]-3a-(3-chlorophenyl)-6a-phenyl-1,2,3,3a,4,5,6,6a-octahydroimidazo[4,5-d]imidazole
Following the procedure of Example 1, 1-(3-chlorophenyl)-2-phenylethanedione (0.25 g, 1.0 mmol) and 2-guanidinobenzimidazole (0.215 g, 1.2 mmol) in methanol (12 mL) was treated with a solution of sodium hydroxide (48 mg, 1.2 mmol) in 1.2 mL of water. The title compound was isolated as pale yellow crystals (130 mg, 39% yield). MS (ESI) m/z 559 [M+H]+.

reactant | 1-(3-chlorophenyl)-2-phenylethanedione | 1.0 mmol, 0.25 g | ClC=1C=C(C=CC1)C(C(=O)C1=CC=CC=C1)=O | C14H9ClO2
reactant | 2-guanidinobenzimidazole | 1.2 mmol, 0.215 g | N(C(=N)N)C=1NC2=C(N1)C=CC=C2 | C8H9N5
reactant | sodium hydroxide | 1.2 mmol, 48 mg | [OH-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
solvent | water | 1.2 mL | O | H2O
product | 2,5-bis[2-benzimidazolylimino]-3a-(3-chlorophenyl)-6a-phenyl-1,2,3,3a,4,5,6,6a-octahydroimidazo[4,5-d]imidazole | N1=C(NC2=C1C=CC=C2)N=C2NC1(C(NC(N1)=NC=1NC3=C(N1)C=CC=C3)(N2)C2=CC=CC=C2)C2=CC(=CC=C2)Cl | C30H23ClN10
